INV_TEST
* 反相器测试

*选择 TT, FF, SS三种模式进行仿真
.prot
.lib 'F:\synopsys\library_40\l0040ll_v1p4_1r.lib' TT
.unprot
.inc 'D:\VLSI_homework\final\INV_TEST\TEST_CIRCUIT.net'


.option post nomod  search=' '
.param SUPPLY = 1.1V
.param T = 0.0001n
.temp 100
.global VSS VDD  VPW VNW 
.op vol

*反相器 
.subckt INV  IN VDD VNW VPW VSS OUT

XP1  VDD  IN  OUT    VNW  p11ll_ckt                   W=2.3675e-07 L=4e-08
XN1  VSS  IN  OUT    VPW  n11ll_ckt                    W=1.0e-07 L=4e-08

.ends INV

XINV  TEST_IN VDD VNW VPW VSS OUT INV

VVDD VDD 0 'SUPPLY'
VVPW VPW 0 0
VVNW VNW 0 'SUPPLY'
VVSS VSS 0 0


VIN IN  VSS PULSE 0V 1.1V 0 0.1n 0.1n 4n 8n

.MEASURE TRAN 'riset' TRIG v(OUT) val=0.11V RISE=1 
+                                  targ v(OUT) val=0.99V rise=1 

.MEASURE TRAN 'fallt' TRIG v(OUT) val=0.99V fall=1 
+                                  targ v(OUT) val=0.11V fall=1 

.tran 0.001n 20n SWEEP TEMP -10 100 10



*.alter
*.lib "F:\synopsys\library_40\l0040ll_v1p4_1r.lib" FF
*.alter
*.lib "F:\synopsys\library_40\l0040ll_v1p4_1r.lib" SS
.end